US06281227B1
B. 2-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid tert-butyl ester
The title compound is prepared from (2-bromo-pyridin-3-yl)-carbamic acid tert-butyl ester (1.6 g, 5.9 mmol) and (2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl carbamic acid benzyl ester (1.6 g, 5.9 mmol) according to the methods described in EXAMPLE 59, Parts C,D and E. The title compound was obtained as a white solid (0.29 g, 0.88 mmol).

reactant | (2-bromo-pyridin-3-yl)-carbamic acid tert-butyl ester | 5.9 mmol, 1.6 g | C(C)(C)(C)OC(NC=1C(=NC=CC1)Br)=O | C10H13BrN2O2
reactant | 2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl carbamic acid benzyl ester | 5.9 mmol, 1.6 g | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)CC#C)=O)=O | C15H16N2O3
product | 2-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=NC=CC=C21)CN2C([C@H](CC2)N)=O | C17H22N4O3
